* source AMPLI OP 2 ETAGES
V_VDD         VDD 0 5
V_VSS         0 VSS 5
M_M1         N00263 N00263 VSS VSS ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M2         N00555 N00263 VSS VSS ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
R_R1         N00263 VDD  15k TC=0,0 
M_M3         N01628 IN- N00555 N00555 ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M4         OUT1 IN+ N00555 N00555 ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M5         N01628 N01628 VDD VDD pcg  
+ L=7.8E-6  
+ W=0.138E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-6  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M6         OUT1 N01628 VDD VDD pcg  
+ L=7.8E-6  
+ W=0.138E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-6  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M7         OUT2 N28334 VSS VSS ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M8         OUT2 OUT1 VDD VDD pcg  
+ L=7.8E-6  
+ W={0.138E-3}  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-6  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
R_R2         N28334 VDD  33.6k TC=0,0 
M_M9         N28334 N28334 VSS VSS ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
V_Vd         IN+ IN- DC 0Vdc AC 0Vac 
V_Vcm         IN- 0 DC 0Vdc AC 1Vac 
R_RL         0 OUT2  {RL} TC=0,0 
.PARAM  rl=1meg
